US05488055
A mixture of 2-iodobenzoic acid (14 g, 0.057 mol), 5-amino-1-phenylmethylpyrazole (9.8 g, 0.057 mol), DMF (140 ml), potassium carbonate (8.3 g) and Cu(OAc)2 (0.1 g) was refluxed for about 2 days. The reaction mixture was poured into water, acidified with acetic acid to a pH of 5 and then the solid which formed was collected by filtration, washed with water, then ether and then was dried to afford N-(1-phenylmethylpyrazol-5-yl) anthranilic acid, m.p. 190° C.

reactant | 2-iodobenzoic acid | 0.057 mol, 14 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | 5-amino-1-phenylmethylpyrazole | 0.057 mol, 9.8 g | NC1=CC=NN1CC1=CC=CC=C1 | C10H11N3
reactant | DMF | 140 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Cu(OAc)2 | 0.1 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-(1-phenylmethylpyrazol-5-yl) anthranilic acid | C1(=CC=CC=C1)CN1N=CC=C1NC=1C(C(=O)O)=CC=CC1 | C17H15N3O2
